US09193693B2
Step 4. (S)-Butyl 2-(4-fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate
Into a 10-mL sealed tube, was placed methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (150 mg, 0.47 mmol, 1.00 equiv), (S)-2-methylpyrrolidine (403 mg, 4.74 mmol, 9.99 equiv), butan-1-ol (2 mL). The resulting solution was stirred overnight at 110° C. in an oil bath. The resulting mixture was concentrated under vacuum. This resulted in 150 mg (crude) of (S)-butyl 2-(4-fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.47 mmol, 150 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | (S)-2-methylpyrrolidine | 4.74 mmol, 403 mg, 9.99 equiv | C[C@@H]1NCCC1 | C5H11N
reactant | butan-1-ol | 2 mL | C(CCC)O | C4H10O
product | (S)-Butyl 2-(4-fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OCCCC | C24H26FN3O2
